### PR TITLE
[Merged by Bors] - feat: Giry monoidal product

### PR DESCRIPTION
**Pull request by markusdemedeiros**
Description:
Proves that the monoidal product of the Giry monoidal monad is measurable, following Lemma 4.1 https://doi.org/10.1016/j.aim.2020.107239

The file ``MeasureTheory/Measure/Prod.lean`` proves that partial applications of ``Prod.mk`` are measurable (eg. ``Measurable.map_prod_mk_left``) but this does not suffice to show that ``Prod.mk`` is a measurable function out of both arguments at once. 

Therefore, this lemma is useful for doing monadic probability theory without using Markov kernels. 

I'm a first-time contributor, so feedback is very welcome :) 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 1]
```diff
@@ -548,4 +549,47 @@ end ProbabilityMeasure -- namespace
 
 end map -- section
 
+section MonoidalProduct
+/-! ### The monoidal product in the Giry monad
+Lemma 4.1 of https://doi.org/10.1016/j.aim.2020.10723
```
Comment (TwoFX) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:554]: This link does not work for me.

**Comment by RemyDegenne** [comment]
Welcome!
You can see on this github page that some of the tests that are automatically run on any PR have failed. In this case "continuous integration / Build (push)" has failed. If you click on it, you'll get to a page with a list of errors.
In this case, they say that you have definitions that lack docstrings. Could you add docstrings to your definitions?

**Review by RemyDegenne — COMMENTED** [review]
Here are some comments and suggestions.
You could also prove the same measurability theorem for `FiniteMeasure`, right?

**Comment by markusdemedeiros** [comment]
Thank you for the comments, they are very useful :) You are right that the lemma generalizes to finite measures too, and I added that proof. 

In attempting to prove the generalization I incidentally proved that the set of finite measures and the set of probability measures are measurable sets in the giry monad (``finite_measures_measurable_set``, probability_measures_measurable_set``). They're not used in the main results, but do mathlib PR's typically keep these kinds of minor auxiliary results?

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 2]
```diff
@@ -136,6 +137,20 @@ lemma coeFn_def (μ : FiniteMeasure Ω) : μ = fun s ↦ ((μ : Measure Ω) s).t
 lemma coeFn_mk (μ : Measure Ω) (hμ) :
     DFunLike.coe (F := FiniteMeasure Ω) ⟨μ, hμ⟩ = fun s ↦ (μ s).toNNReal := rfl
 
+/-- The type of probability measures is a measurable space when equipped with the Giry monad. -/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:140]:
```suggestion
/-- The type of finite measures is a measurable space when equipped with the Giry monad. -/
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 3]
```diff
@@ -136,6 +137,20 @@ lemma coeFn_def (μ : FiniteMeasure Ω) : μ = fun s ↦ ((μ : Measure Ω) s).t
...
+instance {α : Type*} [MeasurableSpace α] : MeasurableSpace (FiniteMeasure α) :=
+    Subtype.instMeasurableSpace
+
+/-- The set of all finite measures is a measurable set in the Giry monad -/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:144]:
```suggestion
/-- The set of all finite measures is a measurable set in the Giry monad. -/
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 4]
```diff
@@ -136,6 +137,20 @@ lemma coeFn_def (μ : FiniteMeasure Ω) : μ = fun s ↦ ((μ : Measure Ω) s).t
...
+lemma finite_measures_measurable_set {α : Type*} [MeasurableSpace α] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:145]: Two remarks about names:
- the definition for measurable sets is `MeasurableSet`, hence we use `measurableSet` in the lemma names (and not `measurable_set`). Same for `IsFiniteMeasure`.
- we put the property first: `measurableSet_isFiniteMeasure` and not `isFiniteMeasure_measurableSet`
```suggestion
lemma measurableSet_isFiniteMeasure {α : Type*} [MeasurableSpace α] :
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 5]
```diff
@@ -124,6 +125,18 @@ theorem val_eq_to_measure (ν : ProbabilityMeasure Ω) : ν.val = (ν : Measure
 theorem toMeasure_injective : Function.Injective ((↑) : ProbabilityMeasure Ω → Measure Ω) :=
   Subtype.coe_injective
 
+/-- The type of probability measures is a measurable space when equipped with the Giry monad. -/
+instance {α : Type*} [MeasurableSpace α] : MeasurableSpace (ProbabilityMeasure α) :=
+    Subtype.instMeasurableSpace
+
+lemma probability_measures_measurable_set {α : Type*} [MeasurableSpace α] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:132]:
```suggestion
lemma measurableSet_isProbabilityMeasure {α : Type*} [MeasurableSpace α] :
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 6]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
 
 end map -- section
 
+section MonoidalProduct
+
+open Measure
+
+/-- The monoidal product is a measurable function from the product of probability spaces over
+``α`` and ``β`` into the type of probability spaces over ``α × β``. Lemma 4.1 of
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:569]: Single quotes for code in docstrings.
```suggestion
`α` and `β` into the type of probability spaces over `α × β`. Lemma 4.1 of
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 7]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
...
+https://doi.org/10.1016/j.aim.2020.107239.
+-/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:571]:
```suggestion
https://doi.org/10.1016/j.aim.2020.107239. -/
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 8]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
...
+  · simp_rw [← Set.univ_prod_univ, prod_prod]
+    apply Measurable.mul
+    · exact (measurable_coe MeasurableSet.univ).comp (measurable_subtype_coe.comp measurable_fst)
+    · exact (measurable_coe MeasurableSet.univ).comp (measurable_subtype_coe.comp measurable_snd)
+  simp only [mem_image2, mem_setOf_eq, forall_exists_index, and_imp]
+  intros _ u Hu v Hv Heq
+  simp_rw [← Heq, prod_prod]
+  apply Measurable.mul
+  · exact (measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
+  · exact (measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:598]: In this proof, you are proving the same thing twice: once for the product of any two measurable sets, and once for univ x univ. Can you instead prove it once in a `have` subproof first, then use the result in both places?

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 9]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
...
+open Measure
+
+/-- The monoidal product is a measurable function from the product of probability spaces over
+``α`` and ``β`` into the type of probability spaces over ``α × β``. Lemma 4.1 of
+https://doi.org/10.1016/j.aim.2020.107239.
+-/
+theorem ProbabilityMeasure.measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β] :
+    Measurable (fun (μ : ProbabilityMeasure α × ProbabilityMeasure β)
+      ↦ μ.1.toMeasure.prod μ.2.toMeasure) := by
+  apply Measurable.measure_of_isPiSystem generateFrom_prod.symm isPiSystem_prod _ (by simp)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:575]: There is a specialized corollary for probability measures that avoids the `(by simp)`:
```suggestion
  apply Measurable.measure_of_isPiSystem_of_isProbabilityMeasure generateFrom_prod.symm
    isPiSystem_prod _
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 10]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
...
+  simp only [mem_image2, mem_setOf_eq, forall_exists_index, and_imp]
+  intros _ u Hu v Hv Heq
+  simp_rw [← Heq, prod_prod]
+  apply Measurable.mul
+  · exact (measurable_coe Hu).comp (measurable_subtype_coe.comp measurable_fst)
+  · exact (measurable_coe Hv).comp (measurable_subtype_coe.comp measurable_snd)
+
+/-- The monoidal product is a measurabule function from the product of finite measures over
+``α`` and ``β`` into the type of finite measures over ``α × β``. -/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:584]:
```suggestion
/-- The monoidal product is a measurabule function from the product of finite measures over
`α` and `β` into the type of finite measures over `α × β`. -/
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 11]
```diff
@@ -548,4 +561,42 @@ end ProbabilityMeasure -- namespace
...
+theorem FiniteMeasure.measurable_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:585]: You should move that lemma to the file on `FiniteMeasure`.

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean (hunk 8 above)
Comment (markusdemedeiros) [reply Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]: Done. I tried golfing the `have` proof to be shorter but was not successful.

**Comment by RemyDegenne** [comment]
Thank you for this PR!
I pushed a commit to move the lemmas to what I think are better positions in the files (some of them were in the middle of lemmas about `mk`). I hope you don't mind. I also removed `{α : Type*} [MeasurableSpace α]` from some of your new results since there was already a measurable space declared in a `variable` line on top of the files.
Please check that I did not do anything you disagree with, and then merge if it's fine.
bors d+

**Comment by markusdemedeiros** [comment]
Looks great @RemyDegenne. Thanks for all the advice, taking notes for next time 🙂
